US07553973B2
Step 3: Dicyclopropyl(5-mercapto-1,3,4-thiadiazol-2-yl)methanol
To a solution of cyclopropylmagnesiumbromide (37 ml, 0.5 M/THF, 18.4 mmol at 0° C. was slowly added a THF solution of ethyl 5-mercapto-1,3,4-thiadiazole-2-carboxylate (1 g, 5.3 mmol). When half the solution was added, the cooling bath was removed and the rest of the solution was added. The mixture was stirred at room temperature for 4 hours then partitioned between aqueous NH4Cl and Et2O. The layers were separated and the aqueous phase was extracted with Et2O. The combined organic layers were washed with brine and dried over anhydrous Na2SO4. The solvent was evaporated and the residue chromatographed on silica gel (hexanes:acetone, 95:5) to give the title compound. 1H NMR (400 MHz, acetone-d6): 4.75 (s, 1H), 1.39-1.26 (m, 2H), 0.67-0.38 (m, 8H).

reactant | cyclopropylmagnesiumbromide | C1(CC1)[Mg]Br
reactant | ethyl 5-mercapto-1,3,4-thiadiazole-2-carboxylate | 5.3 mmol, 1 g | SC1=NN=C(S1)C(=O)OCC | C5H6N2O2S2
reactant | THF | C1CCOC1 | C4H8O
product | Dicyclopropyl(5-mercapto-1,3,4-thiadiazol-2-yl)methanol | C1(CC1)C(O)(C=1SC(=NN1)S)C1CC1 | C9H12N2OS2
